US05420128
3-Amino-5-methyl-4-(4-phenylthiophenyl)pyrazole
A mixture of 520 mg of α-acetyl-4-phenylthiophenylacetonitrile, 217 mg of semicarbazide hydrochloride, 15 ml of methanol and 3 ml of water was stirred at 0° C. for 10 minutes. Removing the ice bath, 40 hours later, the mixture was stirred at room temperature for 1 hour while keeping the pH at 9 to 10 by using aqueous solution of 2N sodium hydroxide. Adding 50 ml of water, the mixture was stirred for 30 minutes in ice-cooling, and the precipitate was filtered. It was directly added to the mixed solution of 5 ml of aqueous solution of 2N sodium hydroxide and 50 ml of methanol, and the mixture was stirred for 4 hours at room temperature, and then 80 ml of water was added, and the mixture was stirred for 30 minutes in ice-cooling, then the precipitate was filtered, Washed in water and dried, thereby obtaining 500 mg of the title compound.

reactant | α-acetyl-4-phenylthiophenylacetonitrile | 520 mg | C(C)(=O)C(C#N)C1=CC=C(C=C1)SC1=CC=CC=C1 | C16H13NOS
reactant | semicarbazide hydrochloride | 217 mg | Cl.NNC(=O)N
reactant | methanol | 15 ml | CO | CH4O
solvent | water | 3 ml | O | H2O
product | 3-Amino-5-methyl-4-(4-phenylthiophenyl)pyrazole | 500 mg | NC1=NNC(=C1C1=CC=C(C=C1)SC1=CC=CC=C1)C | C16H15N3S
